US07279478B2
Step 1 Synthesis of (4-bromothien-2-yl)(phenyl)methanol
2,4 dibromothiophene (3 g, 12.4 mmol) was dissolved in Et2O (50 mL) and cooled to −78° C. BuLi (1.6 M in hexanes)(8.1 mL, 13 mmol, 1.05 eg) was added dropwise over 20 min. then the yellow solution was stirred at −78° C. for 1 hour. Benzaldehyde (1.45 g, 13.64 mmol, 1.1 eg) dissolved in Et2O (15 mL) was added dropwise at a rate to maintain internal temperature <−70° C., then reaction mixture was allowed to warm slowly to 0° C. Quenched with Sat NH4Cl (50 mL) and phases partitioned. Organic fraction was washed with brine, dried, concentrated. Residue was chromatographed with 10% EtOAc/hexane to yield the title compound as a pale yellow solid.

reactant | 2,4 dibromothiophene | 12.4 mmol, 3 g | BrC=1SC=C(C1)Br | C4H2Br2S
reactant | BuLi | 13 mmol, 1.6 M, 8.1 mL | [Li]CCCC
reactant | Benzaldehyde | 13.64 mmol, 1.45 g | C(C1=CC=CC=C1)=O | C7H6O
solvent | Et2O | 50 mL | CCOCC | C4H10O
solvent | Et2O | 15 mL | CCOCC | C4H10O
product | (4-bromothien-2-yl)(phenyl)methanol | BrC=1C=C(SC1)C(O)C1=CC=CC=C1 | C11H9BrOS
